US06271418B1
To a stirred solution of ethyl 4-chloro-2-phenylcyclohexa-2,4-dienecarboxylate and ethyl 4-chloro-2-phenylcyclohexa-1,3-dienecarboxylate(200 mg, 0.762 mmol) in tert-BuOH(3 ml), tert-BuOK(103 mg, 0.914 mmol) was added by portion on a water bath. After stirring for 2 days, water was added to the reaction mixture and it was acidified with dil. HCl aq., extracted with AcOEt. The organic layer was washed with brine and dried over MgSO4. Concentration of the organic layer afford a mixture(200 mg) of ethyl 4-chloro-2-phenylbenzoate and 4-chloro-2-phenylbenzoic acid. 1H-NMR(ppm, 300 MHz, CDCl3) δ ester 7.79(1H, d, J=8.0 Hz), 7.10-7.50(7H), 4.07(2H, d, J=6.9 Hz), 0.98(3H, t, J=6.9 Hz); acid 7.91(1H, d, J=8.7 Hz)

reactant | ethyl 4-chloro-2-phenylcyclohexa-2,4-dienecarboxylate | ClC=1C=C(C(CC1)C(=O)OCC)C1=CC=CC=C1 | C15H15ClO2
reactant | ethyl 4-chloro-2-phenylcyclohexa-1,3-dienecarboxylate | 0.762 mmol, 200 mg | ClC1=CC(=C(CC1)C(=O)OCC)C1=CC=CC=C1 | C15H15ClO2
reactant | tert-BuOK | 0.914 mmol, 103 mg | C(C)(C)(C)O[K]
reactant | HCl | Cl | ClH
solvent | tert-BuOH | 3 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | ethyl 4-chloro-2-phenylbenzoate | 200 mg | ClC1=CC(=C(C(=O)OCC)C=C1)C1=CC=CC=C1 | C15H13ClO2
